US05310743
(2R*,4S*)-2-Benzyl-1-(2-chlorobenzoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
200 mg (0.467 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 4a with 88 mg (0.560 mmol) of 2-chlorobenzoic acid, 143 mg (0.561 mmol) of bis-(2-oxo-3-oxazolidinyl)phosphinic chloride and 144 μl (1.03 mmol) of triethylamine. The title compound (179 mg, 68%) is obtained as white foam. TLC: methylene chloride/methanol/conc. ammonia (2000:50:1) Rf =0.42, FD-MS: M+ =565, 567.

reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.467 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | 2-chlorobenzoic acid | 0.560 mmol, 88 mg | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | bis-(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.561 mmol, 143 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 1.03 mmol, 144 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-Benzyl-1-(2-chlorobenzoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 179 mg, 68% | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(C1=C(C=CC=C1)Cl)=O | C31H27ClF3N3O2
